US04284631
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.20 g.) and conc. hydrochloric acid (1.09 g.) in methanol (18 ml.) and tetrahydrofuran (9 ml.) was stirred at room temperature for 2 hours. The solution was treated in a similar manner to that of Example 5-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)-acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.83 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.20 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=NOC=C1 | C17H14N6O7S2
reactant | hydrochloric acid | 1.09 g | Cl | ClH
solvent | methanol | 18 ml | CO | CH4O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-isoxazolylmethoxyimino)-acetamido]-3-cephem-4-carboxylic acid | 0.83 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=NOC=C1 | C16H14N6O6S2
